US03953457
EXAMPLE 3: s-TRIAZOLO(4,3-a)QUINOLIN-1-OL
2-Hydrazinoquinoline (15.9 grams; 0.1 mole) was placed in a 250-milliliter three-necked flask equipped with a condenser, along with 70 milliliters of diphenyl ether. To the flask was then added 11.9 grams (0.1 mole) of phenyl isocyanate. The reaction mixture was allowed to reflux for three hours, cooled, and allowed to stand at room temperature overnight. In the morning the precipitate, the desired s-triazolo(4,3-a)quinolin-1-ol product, was filtered off and recrystallized from water. The product so obtained melted at 133.5°-4.5°C.

reactant | 2-Hydrazinoquinoline | 0.1 mole, 15.9 grams | N(N)C1=NC2=CC=CC=C2C=C1 | C9H9N3
reactant | phenyl isocyanate | 0.1 mole, 11.9 grams | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | diphenyl ether | 70 milliliters | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | s-TRIAZOLO(4,3-a)QUINOLIN-1-OL | C1(=NN=C2N1C1=CC=CC=C1C=C2)O | C10H7N3O
